* LM358 Dual Operational Amplifier Macromodel
* National Semiconductor
* Connections:
*   3 - Non-Inverting Input
*   2 - Inverting Input
*   8 - Positive Power Supply (VCC+)
*   4 - Negative Power Supply (VCC-)
*   1 - Output

.SUBCKT LM358 3 2 8 4 1

* Input Stage
Q1 6 1 7 QP
Q2 8 2 7 QP
I1 3 7 100E-6
R1 6 3 100E3
R2 8 3 100E3

* Level Shift
Q3 9 6 10 QN
Q4 11 8 12 QN
R3 9 3 1E3
R4 11 3 1E3
I2 10 4 50E-6
I3 12 4 50E-6

* Gain Stage
Q5 13 9 14 QN
Q6 13 11 15 QN
R5 13 3 100E3
I4 14 4 100E-6
I5 15 4 100E-6

* Output Stage
Q7 5 13 3 QP
Q8 5 16 4 QN
R6 16 17 25
D1 5 3 DX
D2 4 5 DX
V1 17 13 0.6

* Frequency Compensation
C1 9 0 30P
C2 11 0 30P

* Models
.MODEL QP PNP(BF=100)
.MODEL QN NPN(BF=100)
.MODEL DX D(IS=1E-15)

.ENDS LM358