* TL071 OPERATIONAL AMPLIFIER MACROMODEL
* REV. B   Copyright 1990 by Texas Instruments Incorporated
* All rights reserved.  This model is provided “as is”.  Texas Instruments
* makes no warranty, expressed or implied, that the model is correct.
* Connections:
*   1 - Offset Null 1
*   2 - Inverting Input
*   3 - Non-Inverting Input
*   4 - VCC-
*   5 - Offset Null 2
*   6 - Output
*   7 - VCC+
*   8 - NC
*
.SUBCKT TL071 1 2 3 4 5 6 7
*
* INPUT STAGE
Q1 9 3 10 QN
Q2 8 2 11 QN
I1 7 10 100E-6
I2 7 11 100E-6
RC1 7 8 25E3
RC2 7 9 25E3
VOS 1 12 DC 0
R1 12 13 1K
R2 13 7 1K
*
* GAIN STAGE
Q3 14 8 4 QP
Q4 15 9 16 QP
I3 7 14 100E-6
I4 7 15 100E-6
R3 16 4 5E3
CC 7 8 30P
C1 7 15 30P
*
* OUTPUT STAGE
Q5 6 14 17 QN
Q6 6 15 18 QP
I5 17 4 1.5E-3
I6 7 18 1.5E-3
D1 7 6 DX
D2 6 4 DX
*
.MODEL QN NPN(BF=2.5E3)
.MODEL QP PNP(BF=2.5E3)
.MODEL DX D(IS=1E-15)
.ENDS TL071